US04548818
Preparation of 3,7-dihydro-8-methyl-3-propyl-1H-purine-2,6-dione XXXXVI
A solution of 22.6 g of 5,6-diamino-1-propyl-2,4-(1H,3H)-pyrimidinedione in 50 ml of acetic acid was refluxed for 2 hours. 30 ml of ethanol was added. The received crystals were filtered off. Yield 19.8 g. The amide was refluxed in 80 ml of 2N NaOH for 2 hours and then neutralized with 5N HCl. The crystals were filtered off and recrystallized from 2.1 l ethanol. Yield 9.8 g (38%) (XXXXVI) NMR (see Table I).

reactant | 5,6-diamino-1-propyl-2,4-(1H,3H)-pyrimidinedione | 22.6 g | NC=1C(NC(N(C1N)CCC)=O)=O | C7H12N4O2
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3,7-dihydro-8-methyl-3-propyl-1H-purine-2,6-dione | CC1=NC=2N(C(NC(C2N1)=O)=O)CCC | C9H12N4O2
